US07781428B2
2-(4-cyano-3-methylphenyl)-3-cyclopentenyl-3,3a,4,5-tetrahydro-2H-benzo[g]indazole-7-carboxylic acid
The title compound was injustices prepared from methyl 6-(cyclopent-1-en-1-ylmethylene)-5-oxo-5,6,7,8-tetrahydronaphthalene-2-carboxylate; Preparation 24 and 4-hydrazinyl-2-methylbenzonitrile hydrochloride; Preparation 2 according to Method B and Method C. The title compound was largely present as (±)-(3RS,3aRS)-2-(4-cyano-3-methylphenyl)-3-cyclopentenyl-3,3a,4,5-tetrahydro-2H-benzo[g]indazole-7-carboxylic acid. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.36-1.85 (m, 4H), 1.88-2.12 (m, 2H), 2.18 (s, 2H), 2.38 (s, 3H), 2.99 (d, J=4.0 Hz, 2H), 3.55-3.75 (m, 1H), 5.39 (d, J=10.7 Hz, 1H), 5.62 (s, 1H), 6.86 (br. s., 1H), 7.13 (br. s., 1H), 7.52 (d, J=8.6 Hz, 1H), 7.69-7.89 (m, 2H), 8.03 (d, J=7.8 Hz, 1H), 12.99 (s, 1H); ES-MS m/z 398 (M+H).

reactant | methyl 6-(cyclopent-1-en-1-ylmethylene)-5-oxo-5,6,7,8-tetrahydronaphthalene-2-carboxylate | C1(=CCCC1)C=C1C(C=2C=CC(=CC2CC1)C(=O)OC)=O | C18H18O3
reactant | 4-hydrazinyl-2-methylbenzonitrile hydrochloride | Cl.N(N)C1=CC(=C(C#N)C=C1)C
product | 2-(4-cyano-3-methylphenyl)-3-cyclopentenyl-3,3a,4,5-tetrahydro-2H-benzo[g]indazole-7-carboxylic acid | C(#N)C1=C(C=C(C=C1)N1N=C2C3=C(CCC2C1C1=CCCC1)C=C(C=C3)C(=O)O)C | C25H23N3O2
